US08754215B2
(a) Preparation of 2-chloro-N-phenethylacetamide
β-phenylethylamine (0.68 kg) was taken in dry toluene (4.42 L) and sodium bicarbonate (0.612 kg) was added at 30° C. and cooled to 0-5° C. Chloroacetyl chloride was slowly added under nitrogen blanket at 0-10° C., stirred and maintained for 2 hr. After completion of the reaction, water was added slowly and reaction mass was allowed to attain 33±2° C. and the layers were separated. To the aqueous layer toluene was added, stirred and two layers were separated. To the organic layer dil HCl solution (0.653 L DM water+0.272 L con HCl) was added, stirred and two layers were separated. To the organic layer again sodium bicarbonate solution (0.653 L DM water+0.068 kg sodium bicarbonate) was added, stirred and two layers were separated. Water was added to the organic layer, stirred and two layers were separated. From the organic layer toluene was distilled out, methanol was added, heated to 58° C., stirred. To the reaction mass water was added, temperature was maintained at 58° C., stirred for 1-1.5 hr, cool to 30±2° C. for 3 hrs under stirring. Stirring was continued for 3 hrs at 0-5° C. The reaction mass was filtered, washed with water and dried.

reactant | β-phenylethylamine | 0.68 kg | C1(=CC=CC=C1)CCN | C8H11N
reactant | sodium bicarbonate | 0.612 kg | C([O-])(O)=O.[Na+]
reactant | Chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | water | O | H2O
solvent | toluene | 4.42 L | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-N-phenethylacetamide | ClCC(=O)NCCC1=CC=CC=C1 | C10H12ClNO
